US07692878B2
The synthesis starts from commercially available 2-methylthiophene, which is brominated in the 3 and 5 position with bromine. The 3,5-dibromo-2-methylthiophene reacts in a Suzuki coupling with 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl) methoxybenzene, made from 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane and 4-bromoanisole in a grignard reaction to obtain 5-(4′-methoxyphenyl)-3-bromo-2-methylthiophene. This compound is reacts with butyl lithium and octafluorocyclopentene to obtain the reaction product. Another example synthesizes 1,2-bis (2-methyl-5-phenyl-3-thienyl)perfluorocyclopentene, while 1,2-bis (5′-(4″hydroxyphenyl)-2′-methylthien-3′-yl)perfluorocyclopentene is obtained from 1,2-bis (5′(4″methoxyphenyl)-2′-methylthien-3′-yl) perfluorocyclopentene via reaction with BBr3.

reactant | 2-methylthiophene | CC=1SC=CC1 | C5H6S
reactant | bromine | BrBr | Br2
reactant | 3,5-dibromo-2-methylthiophene | BrC1=C(SC(=C1)Br)C | C5H4Br2S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl) methoxybenzene | CC1(OB(OC1(C)C)COC1=CC=CC=C1)C | C13H19BO3
reactant | 2-isopropoxy-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | C(C)(C)OB1OC(C(O1)(C)C)(C)C | C9H19BO3
reactant | 4-bromoanisole | BrC1=CC=C(C=C1)OC | C7H7BrO
product | 5-(4′-methoxyphenyl)-3-bromo-2-methylthiophene | COC1=CC=C(C=C1)C1=CC(=C(S1)C)Br | C12H11BrOS
